US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]-3-(1,1,2,2-tetrafluoroethoxy)benzamide
Using 3-(1,1,2,2-tetrafluoroethoxy)benzoic acid (85 mg, 0.35 mmol), oxalyl chloride (38 μL, 0.44=mol), N,N-dimethylformamide (1 drop), tetrahydrofuran (3.0 mL), N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (100 mg, 0.30 mmol) and N-methylpyrrolidone (2.0 mL) as starting materials and in the same manner as in Example 335, the title compound (110 mg, 64%) was obtained as a white powder.

reactant | 3-(1,1,2,2-tetrafluoroethoxy)benzoic acid | 0.35 mmol, 85 mg | FC(C(F)F)(OC=1C=C(C(=O)O)C=CC1)F | C9H6F4O3
reactant | oxalyl chloride | 38 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.30 mmol, 100 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)OC | C17H17N5O3
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]-3-(1,1,2,2-tetrafluoroethoxy)benzamide | 110 mg, 64% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2OC)NC(C2=CC(=CC=C2)OC(C(F)F)(F)F)=O)C1 | C26H21F4N5O5
